US08957205B2
1-[[(2-Oxo-2H-pyran-5-yl)carbonyl]amino]cyclohexanecarboxylic acid
A solution of 2.37 g (10 mmol) of 5-coumarincarboxylic acid N-hydroxysuccinimide ester, 1.43 g (10 mmol) of 1-aminocyclohexanecarboxylic acid and 3.04 g (30 mmol) of triethylamine in 20 ml of dimethylformamide was stirred overnight. Ethyl acetate was added to the reaction solution, and the mixture was washed with a 10% aqueous potassium hydrogensulfate solution and then saturated brine. After it was dried with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to obtain 1.42 g (60%) of the title compound.

reactant | 1-aminocyclohexanecarboxylic acid | 10 mmol, 1.43 g | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | triethylamine | 30 mmol, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[[(2-Oxo-2H-pyran-5-yl)carbonyl]amino]cyclohexanecarboxylic acid | 1.42 g, 60% | O=C1OC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)O | C13H15NO5
